US09085555B2
[3-Chloro-2-fluoro-5-(4-methyl-piperazin-1-yl)-benzyl]-carbamic acid tert-butyl ester
was prepared according to Scheme C1 (step A) from (5-bromo-3-chloro-2-fluoro-benzyl)-carbamic acid tert-butyl ester (200 mg, 0.59 mmol), 1-methylpiperazine (71 mg, 0.71 mmol), caesium carbonate (269 mg, 0.83 mmol), palladium (II) acetate (6.6 mg, 0.03 mmol) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (24 mg, 0.04 mmol). MS (LC-MS): 358.0 [M]+; tR (HPLC conditions c): 3.98 min.

reactant | (5-bromo-3-chloro-2-fluoro-benzyl)-carbamic acid tert-butyl ester | 0.59 mmol, 200 mg | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)Br)Cl)F)=O | C12H14BrClFNO2
reactant | 1-methylpiperazine | 0.71 mmol, 71 mg | CN1CCNCC1 | C5H12N2
reactant | caesium carbonate | 0.83 mmol, 269 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.04 mmol, 24 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | palladium (II) acetate | 0.03 mmol, 6.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | [3-Chloro-2-fluoro-5-(4-methyl-piperazin-1-yl)-benzyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)N1CCN(CC1)C)Cl)F)=O | C17H25ClFN3O2
